US05679791
Preparation of Isopropyl 3-(2-chloro-4-fluoro-5-isocyanatophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
A mixture of isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate (4.0 g, 0.0103 mol) in toluene is treated with a 1.93M solution of phosgene in toluene (19 mL), refluxed for 3 hours, cooled, partially concentrated in vacuo, diluted with toluene, partially concentrated in vacuo, diluted with toluene and concentrated in vacuo to give the title product as a yellow foam which is identified by 1H NMR spectral analysis.

reactant | isopropyl 3-(5-amino-2-chloro-4-fluorophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | 0.0103 mol, 4.0 g | NC=1C(=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O)Cl)F | C15H16ClFN4O5
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
product | Isopropyl 3-(2-chloro-4-fluoro-5-isocyanatophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(C=C(C(=C1)F)N=C=O)N1C(N(C(N(C1=O)C)=O)CC(=O)OC(C)C)=O | C16H14ClFN4O6
